US07589212B2
Preparation of (S)-5-methyl-N-(2-(4-nitrophenyl)-1-(2-phenylthiazol-4-yl)ethyl)-1,3,4-thiadiazol-2-amine (5):
A solution of (S)-4-(1-isothiocyanato-2-(4-nitrophenyl)-ethyl)-2-phenylthiazole, 4, (332 mg, 0.876 mmol) and acetic hydrazide (65 mg, 0.876 mmol) in EtOH (5 mL) is refluxed for 2 hours. The solvent is removed under reduced pressure, the residue is dissolved in POCl3 (3 mL) and the resulting solution is stirred at room temperature for 18 hours after which the solution is heated to 50° C. for 2 hours. The solvent is removed in vacuo and the residue is dissolved in EtOAc (40 mL) and the resulting solution is treated with 1N NaOH until the pH remains approximately 8. The solution is extracted with EtOAc. The combined aqueous layers are washed with EtOAc, the organic layers combined, washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to afford 0.345 g (93%) of the desired product as a yellow solid. 1H NMR (CDCl3) 8.09 (d, J =8.4 Hz, 2H), 7.91 (m, 2H), 7.46 (m, 4H), 7.44 (s, 1H), 5.23 (m, 1H), 3.59 (m, 2H), 2.49 (s, 3H). ESI+MS 424 (M+1).

reactant | (S)-4-(1-isothiocyanato-2-(4-nitrophenyl)-ethyl)-2-phenylthiazole | N(=C=S)[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)C1=CC=CC=C1 | C18H13N3O2S2
reactant | acetic hydrazide | 0.876 mmol, 65 mg | C(C)(=O)NN | C2H6N2O
solvent | EtOH | 5 mL | CCO | C2H6O
product | (S)-5-methyl-N-(2-(4-nitrophenyl)-1-(2-phenylthiazol-4-yl)ethyl)-1,3,4-thiadiazol-2-amine | 0.345 g, 93% | CC1=NN=C(S1)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C=1N=C(SC1)C1=CC=CC=C1 | C20H17N5O2S2
